US07196111B2
According to a modified literature procedure (Collins, I. et al J. Med. Chem. 2002, 45, 1887–1900) a solution of 5.06 g (13.1 mmol) of 3-cyclohexyl-2-(4-iodo-phenyl)-3-oxo-propionic acid methyl ester in 80 mL of dimethylsulfoxide (DMSO) was added a solution of 1.53 g (26.2 mmol) of sodium chloride (NaCl) in 5.8 mL of water (H2O), and the resulting mixture was heated at 150° C. for 3 h during which time a white solid formed. The reaction mixture was cooled to rt, poured into 500 mL of water, and extracted thoroughly with ethyl acetate. The combined organic extracts were washed with water (3 times), brine, dried over sodium sulfate and concentrated to give 4.13 g (96% yield) of desired 1-cyclohexyl-2-(4-iodo-phenyl)-ethanone as a yellow solid as indicated by 1H NMR (containing small traces of impurities). The product was used without any further purification in the next step.

reactant | 3-cyclohexyl-2-(4-iodo-phenyl)-3-oxo-propionic acid methyl ester | 13.1 mmol, 5.06 g | COC(C(C(=O)C1CCCCC1)C1=CC=C(C=C1)I)=O | C16H19IO3
reactant | sodium chloride | 26.2 mmol, 1.53 g | [Cl-].[Na+]
solvent | dimethylsulfoxide | 80 mL | CS(=O)C | C2H6OS
solvent | water | 5.8 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 1-cyclohexyl-2-(4-iodo-phenyl)-ethanone | 4.13 g, 96% yield | C1(CCCCC1)C(CC1=CC=C(C=C1)I)=O | C14H17IO
